* 

*------------- Models -------------------------
*.include /usr/share/oregano/models/1N4148.model
*----------------------------------------------
.model M_D1N1418 d(IS=0.1PA, RS=16 CJO=2PF TT=12N BV=100 IBV=0.1PA) 

*******************************************************************
* SMALL SIGNAL SCHOTTKY DIODE 10V....40V
*******************************************************************

*******************************************************************
* Model name       : BAT60JFILM
* Description      : Small Signal Schottky Diode
* Package type     : SOD-323
*******************************************************************
.MODEL BAT60JFILM D(IS=20.053E-9 N=.93972 RS=.18722 IKF=614.92 CJO=101.96E-12
+ M=.39267 VJ=.3905 ISR=650.19E-9 NR=4.9950 EG=.69 XTI=2 FC=0.5 TT=0)
*$

*******************************************************************
* Model name       : BAS69KFILM
* Description      : Small Signal Schottky Diode
* Package type     : SOD-523
*******************************************************************
.MODEL BAS69KFILM D(IS=346.55E-15 N=.6026 RS=10.622 IKF=66.178 CJO=619.57E-15
+ M=.5418 VJ=9.9900 ISR=20.602E-9 NR=4.9950 EG=.69 XTI=2 FC=0.5 TT=0)
*$

*******************************************************************
* Model name       : BAS69WFILM
* Description      : Small Signal Schottky Diode
* Package type     : SOT-323
*******************************************************************
*model BAS69WFILM 	anode
*		    		| cathode
*		    		| |
.subckt BAS69WFILM	A K
d1 A K dx
.model dx	D(IS=346.55E-15 N=.6026 RS=10.622 IKF=66.178 CJO=619.57E-15 M=.5418
+			VJ=9.9900 ISR=20.602E-9 NR=4.9950 EG=.69 XTI=2 FC=0.5 TT=0)

*	STMicroelectronics	case=SOT-323   Delivery= Tape&reel
.ends

.model BAR42 D(
+ IS=1.13853e-08 ISR=3.26235e-08 RS=0.99517
+ CJO=9.26191e-12 VJ=1.6 M=0.411631 BV=33 EG=0.7 ) 


*D1 1 0 M_D1N1418
*D2 2 1 M_D1N1418
*D1 1 0 BAS69KFILM
*D2 2 1 BAS69KFILM

D11 a1 V1 BAR42
D12 b1 V2 BAR42
D13 c1 V3 BAR42
D14 d1 V4 BAR42

D21 0  a1 BAR42
D22 V1 b1 BAR42
D23 V2 c1 BAR42
D24 V3 d1 BAR42

V_V1 Vs 0 dc 0.0 ac 1 sin(0.0 1.0 100MEG 0 0) 
Rs Vs Vin 50
Rl V4 0 1MEG

C11 Vin a1 500p IC=0 
C12 Vin b1 500p IC=0
C13 Vin c1 500p IC=0
C14 Vin d1 500p IC=0

C21 V1  0  500p IC=0 
C22 V2  0  500p IC=0
C23 V3  0  500p IC=0
C24 V4  0  500p IC=0

*----------------------------------------------

*.print tran v(Vin) v(v1) v(v2) v(v3) v(v4) i(C11) i(C21) i(C12) i(C22) i(D11) i(D21) i(D12) i(D22)

*.tran 50p 50u 49u  > vDubMult.out
*.tran 1u 200u 0 *ngspice

.print ac VR(Vin) VI(Vin) IR(Rs) II(Rs)
.ac DEC 200 10MEG 1000MEG >vDubTry.out

.op

.END
